US05438052
A dried solution of 2.0 g of sodium hydrogen sulphide monohydrate (drying agent molecular sieve 4 Å) in 100 ml of dimethylformamide is treated with 2.2 g of 2-azidomethyl-5-methyl[1.2.4]triazolo[1,5-a]pyrimidine-7-thiol and stirred until the evolution of gas has finished (about 15 minutes). Thereupon, 4.35 g of 1H-benzotriazol-1-yl 2,2-diphenyl-1,3-benzodioxol-5-carboxylate are added and the reaction mixture is stirred at room temperature for 20 hours and at 45° C. for 24 hours. The solvent is evaporated in a high vacuum, the residue is taken up in 200 ml of ethyl acetate and 200 ml of water and stirred in an ice bath for 30 minutes. The resulting precipitate is filtered off under suction, washed with water and ethyl acetate and dried in a vacuum at 40° C. The yellow product is dissolved in 100 ml of methanol, a small amount of insoluble material is removed by filtration and the filtrate is concentrated to dryness. The residue in 100 ml of acetonitrile is heated at reflux on a steam bath for 1 hour. After cooling in an ice bath the product is filtered off under suction and dried. There are obtained 4.25 g of N-[(7-mercapto-5-methyl-s-triazolo[1,5-a]pyrimidin-2-yl)methyl]-2,2-diphenyl-1,3-benzodioxol-5-carboxamide as a yellow solid of melting point 267°-271° C. (dec.).

reactant | sodium hydrogen sulphide monohydrate | 2.0 g | O.S.[Na]
reactant | 2-azidomethyl-5-methyl[1.2.4]triazolo[1,5-a]pyrimidine-7-thiol | 2.2 g | N(=[N+]=[N-])CC1=NN2C(N=C(C=C2S)C)=N1 | C7H7N7S
reactant | 1H-benzotriazol-1-yl 2,2-diphenyl-1,3-benzodioxol-5-carboxylate | 4.35 g | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)C(=O)ON2N=NC1=C2C=CC=C1)C1=CC=CC=C1 | C26H17N3O4
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-[(7-mercapto-5-methyl-s-triazolo[1,5-a]pyrimidin-2-yl)methyl]-2,2-diphenyl-1,3-benzodioxol-5-carboxamide | 4.25 g | SC1=CC(=NC=2N1N=C(N2)CNC(=O)C2=CC1=C(OC(O1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C2)C | C27H21N5O3S
